US04863929
3-(12-Cyano-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea
A suspension of 500 mg of 1,1-diethyl-3-(2,3-dihydro-12-formyl-6-methyl-8α-ergolinyl)urea and 460 mg of hydroxylamine-O-sulfonic acid in 5 ml of water is stirred for 20 hours at room temperature. The reaction mixture is poured on ice, set to be alkaline with 25% strength ammonia solution, and extracted with dichloromethane. The organic phase is dried (Na2SO4), concentrated, the residue chromatographed on silica gel with dichloromethane/methanol=95/5 as the eluting agent, and crystallized from ethyl acetate/pentane. Yield 26% of theory.

reactant | 1,1-diethyl-3-(2,3-dihydro-12-formyl-6-methyl-8α-ergolinyl)urea | 500 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3CNC4=CC=C(C([C@H]2C1)=C34)C=O)C)CC | C21H30N4O2
reactant | hydroxylamine-O-sulfonic acid | 460 mg | NOS(=O)(=O)O | H3NO4S
reactant | ammonia | N | H3N
solvent | water | 5 ml | O | H2O
product | 3-(12-Cyano-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | Yield 26% | C(#N)C1=CC=C2NCC3C[C@H]4N(C[C@H](C[C@@H]4C1=C32)NC(N(CC)CC)=O)C | C21H29N5O
